US07659287B2
Preparation of (S)-N-[1-(2-cyanoethyl)piperidin-4-yl]-N-cyclopropyl-4-(1,1,1-trifluoro-2-hydroxypropan-2-yl)benzamide
A solution of (S)-N-cyclopropyl-N-(piperidin-4-yl)-4-(1,1,1-trifluoro-2-hydroxypropan-2-yl)benzamide prepared above in step c in Example 1 (73 mg, 0.20 mmol, 1.0 equiv.) in THF (0.70 mL) was treated with acrylonitrile (55 μL, 0.84 mmol, 4.2 equiv.). After being stirred for 24 h at 50° C., the reaction was diluted (EtOAc) and washed (1×1 N aqueous NaOH, and 1× brine). The organic layer was dried (Na2SO4) and concentrated under reduced pressure. Purification of the residue by flash chromatography (SiO2, 0-10% MeOH/CH2Cl2, gradient elution) gave the title compound as a colorless oil: 1H NMR (CDCl3, 400 MHz) δ 7.58 (d, J=8.2 Hz, 2H), 7.48 (d, J=8.2 Hz, 2H), 4.16-4.09 (m, 1H), 3.02-2.98 (m, 2H), 2.75-2.70 (m, 3H), 2.57-2.54 (m, 3H), 2.26-2.20 (m, 2H), 2.15-2.08 (m, 2H), 1.92-1.87 (m, 2H), 1.78 (s, 3H), 0.58-0.53 (m, 2H), 0.46-0.42 (m, 2H); MS(ESI) 410 [M+H]+.

reactant | (S)-N-cyclopropyl-N-(piperidin-4-yl)-4-(1,1,1-trifluoro-2-hydroxypropan-2-yl)benzamide | C1(CC1)N(C(C1=CC=C(C=C1)[C@](C(F)(F)F)(C)O)=O)C1CCNCC1 | C18H23F3N2O2
reactant | acrylonitrile | 0.84 mmol, 55 μL, 4.2 equiv. | C(C=C)#N | C3H3N
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 0.70 mL | C1CCOC1 | C4H8O
product | (S)-N-[1-(2-cyanoethyl)piperidin-4-yl]-N-cyclopropyl-4-(1,1,1-trifluoro-2-hydroxypropan-2-yl)benzamide | C(#N)CCN1CCC(CC1)N(C(C1=CC=C(C=C1)[C@](C(F)(F)F)(C)O)=O)C1CC1 | C21H26F3N3O2
